US07820654B2
A mixture of compound 4,6-dichloro-2-(4-fluoro-phenyl)-pyrimidine (1 g, 4.10 mmol), 4-trifluoromethoxy aniline (0.8 g, 4.5 mmol) and triethyl amine (0.83 g, 8.20 mmol) in n-butanol (10 mL) was refluxed for 12 hours under nitrogen. The reaction mixture was then cooled to room temperature and concentrated under vacuum, the crude compound was passed through the silicagel by using 5-6% ethylacetate—petroleum ether to afford the compound [6-chloro-2-(4-fluoro-phenyl)-pyrimidin-4-yl]-(4-trifluoromethoxy-phenyl)-amine (0.75 g, 50%) as light brown solid.

reactant | 4,6-dichloro-2-(4-fluoro-phenyl)-pyrimidine | 4.10 mmol, 1 g | ClC1=NC(=NC(=C1)Cl)C1=CC=C(C=C1)F | C10H5Cl2FN2
reactant | 4-trifluoromethoxy aniline | 4.5 mmol, 0.8 g | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | triethyl amine | 8.20 mmol, 0.83 g | C(C)N(CC)CC | C6H15N
solvent | n-butanol | 10 mL | C(CCC)O | C4H10O
product | [6-chloro-2-(4-fluoro-phenyl)-pyrimidin-4-yl]-(4-trifluoromethoxy-phenyl)-amine | 0.75 g, 50% | ClC1=CC(=NC(=N1)C1=CC=C(C=C1)F)NC1=CC=C(C=C1)OC(F)(F)F | C17H10ClF4N3O
